US07528143B2
4-(2-Chloro-5-methylpyrimidin-4-ylamino)-2-chlorobenzonitrile (Intermediate 26)
To a solution of 2-chloro-5-methylpyrimidin-4-amine (144 mg, 1.0 mmol) in 1,4-dioxane (20 mL) was added 4-bromo-2-chlorobenzonitrile (217 mg, 1.0 mmol), Cs2CO3 (1.3 g, 4.0 mmol), Pd2(dba)3 (91 mg, 0.1 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyxanthene (Xant Phos, 173 mg, 0.3 mmol). The mixture was heated under reflux for 4 h under Ar. The solid was filtered off and the filtrate washed with brine (1×100 mL). The organic solution was separated and dried (Na2SO4). The solvent was removed until 5 mL and hexane (100 mL) was added, the solid was collected by filtration. The crude product, the title intermediate 26, was used for next reaction without further purification.

reactant | 2-chloro-5-methylpyrimidin-4-amine | 1.0 mmol, 144 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-bromo-2-chlorobenzonitrile | 1.0 mmol, 217 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | Cs2CO3 | 4.0 mmol, 1.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyxanthene | 0.3 mmol, 173 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.1 mmol, 91 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-Chloro-5-methylpyrimidin-4-ylamino)-2-chlorobenzonitrile | ClC1=NC=C(C(=N1)NC1=CC(=C(C#N)C=C1)Cl)C | C12H8Cl2N4
